US07465721B2
1.1) N2-[(Benzyloxy)Carbonyl]-N1-[(3S)-2-Oxotetrahydrofuran-3-yl]-L-Leucinamide
3.51 g (13.25 mmol) of Cbz-L-Leucine, 2.41 g (1 eq.) of (S)-2-amino-4-butyrolactone hydrobromide, 1.97 g of HOBT (1.1 eq.) and 5.59 g (2.2 eq.) of 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (EDC) is dissolved in 60 ml of anhydrous DMF then 7.64 ml (3.3 eq.) of N,N-diisopropylethylamine is added. The reaction mixture is stirred for 15 hours at 20° C. before being poured into 200 ml of a 1/1 mixture of ethyl acetate/water. After stirring and decantation, the organic solution is washed successively with 100 ml of a saturated solution of NaHCO3, 50 ml of water, 100 ml of a 1M solution of citric acid and finally 100 ml of a solution of salt water. The organic phase is dried over sodium sulphate, filtered and concentrated to dryness under vacuum. The oil obtained is washed using isopentane and then crystallized from a dichloromethane/isopentane mixture. A white solid is obtained with a yield of 68%. Melting point: 130-131° C.

reactant | Cbz-L-Leucine | 13.25 mmol, 3.51 g | C(=O)(OCC1=CC=CC=C1)N[C@@H](CC(C)C)C(=O)O | C14H19NO4
reactant | (S)-2-amino-4-butyrolactone hydrobromide | 2.41 g, 1 eq. | Br.N[C@@H]1C(=O)OCC1
reactant | HOBT | 1.97 g, 1.1 eq. | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 5.59 g, 2.2 eq. | Cl.CN(CCCN=C=NCC)C
reactant | N,N-diisopropylethylamine | 7.64 ml, 3.3 eq. | C(C)(C)N(C(C)C)CC | C8H19N
solvent | DMF | 60 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate water | C(C)(=O)OCC.O
product | N2-[(Benzyloxy)Carbonyl]-N1-[(3S)-2-Oxotetrahydrofuran-3-yl]-L-Leucinamide | yield of 68% | C(C1=CC=CC=C1)OC(=O)N[C@@H](CC(C)C)C(=O)N[C@@H]1C(OCC1)=O | C18H24N2O5
